.SUBCKT COMP INP INM HYS OUT VDD VTHRESH
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > V(VTHRESH),-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), V(VDD) ,0) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMP