*****************************************************************************
.SUBCKT GPI65030CO VDD VIN VSS D S  
R1 VDD 0 200k
V1 N007 0 3.7v
V2 N011 0 0.3v
XU1 VDD N007 N011 N008 N004 N010 COMP
V3 N004 0 1v
V4 N010 0 0.5v
V5 N018 0 1.2v
V6 N022 0 1v
XU2 N018 0 N022 N020 N017 N023 COMP
V7 N017 0 1v
V8 N023 0 0.5v
V9 N030 VSS 2.2v
V10 N033 0 1v
XU3 VIN N030 N033 N031 N028 N032 COMP
V11 N028 0 1v
V12 N032 0 0.5v
R2 VIN VSS 230k
R3 N002 N014 0.02
C1 N002 N015 10pF
R4 N002 P001 1
E1 P001 VSS N013 0 1
XU4 N012 N009 N013 E_ABM1
E2 N003 0 VDD VSS 1
XU5 N003 N009 E_ABM2
C2 N014 N006 0.7p
C3 N006 N015 6p
R5 N006 N005 1100
M1 N014 N006 N015 N015 NMOS01
XU6 N008 N020 N031 N021 N019 N024 AND3
V13 N019 0 1v
V14 N024 0 0.5
XU7 N021 N005 N015 E_U4_E1
E3 N012 0 VDD VSS 1
C4 N015 VSS 10pF
C5 N015 N026 5.5pF
C6 N026 N029 1.2pF
R6 N026 N025 1100
M2 N029 N026 N015 N015 PMOS01
R7 N029 VSS 0.02
XU8 N021 N025 N015 E_U4_E2
XU9 N015 D S GPI65030TOL
.model NMOS NMOS
.model PMOS PMOS
.lib standard.mos
.model NMOS01 NMOS(VTO=2.10, KP=1.18,LAMBDA=0.00001)
.model PMOS01 PMOS(VTO=-2.0,KP=0.23,LAMBDA=0.03)
* VDD
* Vin
* Vss
* D
* S
.lib AND3_BASIC_GEN.lib
.lib COMPHYS_BASIC_GEN.lib
.lib E_ABM1.lib
.lib E_ABM2.lib
.lib E_U4_E1.lib
.lib E_U4_E2.lib
.lib GPI65030TOL.lib
.backanno
.end

