* C:\Users\user\Desktop\PowerLab\OutputCapacitanceAnalysis\CircuitAndScript\Cicuit2.asc
V1 N004 0 PULSE(0 5 0 0.11p 0.11p 12e-3 20e-3)
L1 VDD Vds 4.7µ Rser=4
V2 VDD 0 0.5
R1 N003 N002 10
V3 N003 0 25
XU2 N004 Vds 0 0 N002 N001 GS66508B_L3V2
.tran 0 20m 0.99999m 500n
.lib GaN_LTspice_GS66508B_L3V2.lib
.backanno
.end
